US04956368
8-(4-Bromobutyl)-7,9-dioxo-8-azaspiro[4.5]decan-2-yl Decanoate
2-Hydroxy-8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9dione (2.55 g, 1.00 equiv) was dissolved in 100 mL of anhydrous CH3CN and cooled in an ice-water bath to 0° C. Decanoyl chloride (1.80 mL, 1.08 equiv) was added dropwise neat. The ice-water bath was removed and the reaction was stirred an additional 18 h. The solvent was removed in vacuo and the resultant oil was flash chromatographed with 20% EtOAc/hexane to yield the title compound (3.03 g, 80%) as a clear liquid.

reactant | 2-Hydroxy-8-(4-bromobutyl)-8-azaspiro[4.5]decane-7,9dione | 2.55 g, 1.00 equiv | OC1CC2(CC1)CC(N(C(C2)=O)CCCCBr)=O | C13H20BrNO3
reactant | Decanoyl chloride | 1.80 mL, 1.08 equiv | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 8-(4-Bromobutyl)-7,9-dioxo-8-azaspiro[4.5]decan-2-yl Decanoate | 3.03 g, 80% | C(CCCCCCCCC)(=O)OC1CC2(CC1)CC(N(C(C2)=O)CCCCBr)=O | C23H38BrNO4
